US07745452B2
To a 0° C. solution of 1.0M 4-fluorophenylmagnesium bromide in THF (196.6 mL, 196.6 mmol) was added a THF solution (100 mL) of 2-amino-5-chlorobenzonitrile (10.0 gm, 65.5 mmol) over 0.5 h. The ice bath was removed and the reaction stirred at ambient temperature for 17 h. The brown solution was cooled in an ice bath, treated with a drop wise addition of aqueous 1N HCl (300 mL) and extracted with ether (2×250 mL). The combined organic extracts were washed with aqueous 1N HCl (100 mL), water (2×150 ml), saturated aqueous sodium bicarbonate (150 ml), brine (100 mL), dried over MgSO4, filtered, concentrated in vacuo to 30 mL and diluted with 60 mL hexane. The resulting precipitate was filtered to give (2-amino-5-chlorophenyl)(4-fluorophenyl)methanone as a yellow solid.

reactant | 4-fluorophenylmagnesium bromide | 1.0M | FC1=CC=C(C=C1)[Mg]Br
reactant | 2-amino-5-chlorobenzonitrile | 65.5 mmol, 10.0 gm | NC1=C(C#N)C=C(C=C1)Cl | C7H5ClN2
reactant | THF | 100 mL | C1CCOC1 | C4H8O
reactant | THF | 196.6 mmol, 196.6 mL | C1CCOC1 | C4H8O
product | (2-amino-5-chlorophenyl)(4-fluorophenyl)methanone | NC1=C(C=C(C=C1)Cl)C(=O)C1=CC=C(C=C1)F | C13H9ClFNO
